US04352817
24 g (132.5 mmol) of 5-fluoroisatoic acid anhydride are dissolved in 140 ml of dimethyl sulphoxide and treated with 11.8 g (132.5 mmol) of sarcosine. The solution is stirred at 100° until the gas evolution ceases (duration: about 1.5 hours) and subsequently poured into about 1.2 l of water. After stirring for 10 minutes, a solid material crystallizes out. The crystals are filtered off under suction, washed with 1 l of water and dried. There is obtained 7-fluoro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 262°-263°.

reactant | 5-fluoroisatoic acid anhydride | 132.5 mmol, 24 g | FC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4FNO3
reactant | sarcosine | 132.5 mmol, 11.8 g | N(C)CC(=O)O | C3H7NO2
reactant | water | about 1.2 l | O | H2O
solvent | dimethyl sulphoxide | 140 ml | CS(=O)C | C2H6OS
product | 7-fluoro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | FC=1C=CC2=C(C(N(CC(N2)=O)C)=O)C1 | C10H9FN2O2
